US04859693
Part A. A solution of imidazole (17.0 g, 0.25 mole) in benzene (200 mL) at room temperature was treated with sodium hydride (60% w/w oil dispersion; 8.0 g, 0.20 mole) and heated at reflux for 1 hour. After cooling to room temperature, a solution of ethyl 4-bromobutyrate (30.0 g, 0.20 mole) in benzene (50 mL) was added. The resulting mixture was again heated at reflux for 20 hours. After cooling to room temperature, the solution was washed with water, dried (MgSO4) and concentrated under reduced pressure. The residual yellow oil was subjected to kugelrohr distillation at 125°-135° under rotary vacuum pump pressure to provide ethyl 4-(1-imidazolyl)butyrate as a colorless liquid (11.0 g, 30% yield). NMR(CDCl3) 7.44(1H,s) 7.04(1H,s) 6.90(1H,s) 4.12(2H,q,J=7 Hz) 4.02(2H,t,J=8 Hz) 2.24(2H,t,J=8 Hz) 2.08(2H,m) 1.31(3H,t,J=7 Hz).

reactant | imidazole | 0.25 mole, 17.0 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.20 mole, 8.0 g | [H-].[Na+]
reactant | ethyl 4-bromobutyrate | 0.20 mole, 30.0 g | BrCCCC(=O)OCC | C6H11BrO2
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | ethyl 4-(1-imidazolyl)butyrate | 11.0 g, 30% yield | N1(C=NC=C1)CCCC(=O)OCC | C9H14N2O2
